US05538976
5-[N-(4-Cyanophenyl)-N-[(2-fluoropyridin-5-yl)methyl]amino]pyrimidine
Starting compounds: 5-[N-(4-cyanophenyl) amino]pyrimidine and 5-(bromomethyl)-2-fluoropyridine

reactant | 5-[N-(4-cyanophenyl) amino]pyrimidine | C(#N)C1=CC=C(C=C1)NC=1C=NC=NC1 | C11H8N4
reactant | 5-(bromomethyl)-2-fluoropyridine | BrCC=1C=CC(=NC1)F | C6H5BrFN
product | 5-[N-(4-Cyanophenyl)-N-[(2-fluoropyridin-5-yl)methyl]amino]pyrimidine | C(#N)C1=CC=C(C=C1)N(CC=1C=CC(=NC1)F)C=1C=NC=NC1 | C17H12FN5
